* NPN Transistor Switch with Pulse Drive
* A 2N3904 driven hard on/off by a logic-level pulse. The collector
* pulls a resistive load to VDD when the device is off and sinks it
* to near ground when saturated. Useful for checking switching
* waveforms and saturation voltage.
* Devices exercised: V, R, Q (NPN bundled 2N3904).

.title NPN Pulse Switch
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Supply and 5 V logic-level pulse drive ---
Vdd vdd 0  DC 5
Vin in  0  PULSE(0 5 0 100n 100n 5u 10u)

* --- Base current limiter, collector load ---
Rb in  base 10k
Rc vdd col  1k

* --- Switching transistor ---
Q1 col base 0 2N3904

* --- Analysis: several switching cycles ---
.tran 50n 50u

.MEASURE TRAN v_col_low  AVG V(col) FROM=2u TO=4u
.MEASURE TRAN v_col_high AVG V(col) FROM=7u TO=9u

.end
